US06617339B1
3-(4-(4-(6-Cyano-3-pyridazinyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl)oxymethyloxazolidin-2-one
3-(4-(4-(6-Cyano-3-pyridazinyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-hydroxy methyloxazolidin-2-one (398 mg, 1 mmol), 3-hydroxyisoxazole (93.5 mg, 1.1 mmol) and triphenylphosphine (328 mg, 1.25 mmol), were suspended with stirring in dry tetrahydrofiran (10 ml). Diisopropylazodicarboxylate (242 mg, 1.2 mmol) was added dropwise by syringe, and the mixture stirred at ambient temperature for 30 minutes. The reaction mixture was filtered, evaporated to dryness, dissolved in EtOAc/isohexane (1:1), and applied to a 10 g silica Mega Bond Elut® column, eluting with a gradient from 75 to 100% EtOAc in isohexane. Relevant fractions were combined and evaporated to give the title compound (120 mg).

reactant | 3-(4-(4-(6-Cyano-3-pyridazinyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-hydroxy methyloxazolidin-2-one | 1 mmol, 398 mg | C(#N)C1=CC=C(N=N1)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C19H19FN6O3
reactant | 3-hydroxyisoxazole | 1.1 mmol, 93.5 mg | OC1=NOC=C1 | C3H3NO2
reactant | triphenylphosphine | 1.25 mmol, 328 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 1.2 mmol, 242 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | 3-(4-(4-(6-Cyano-3-pyridazinyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl)oxymethyloxazolidin-2-one | 120 mg | C(#N)C1=CC=C(N=N1)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C22H20FN7O4
